### PR TITLE
[Merged by Bors] - feat: port `GroupTheory.GroupAction.Pi`

### PR DESCRIPTION
**Pull request by winstonyin**

### CODE REVIEW

File: Mathlib/GroupTheory/GroupAction/Pi.lean [hunk 1]
```diff
@@ -0,0 +1,280 @@
...
+
+@[to_additive]
+theorem Function.extend_smul {R α β γ : Type _} [SMul R γ] (r : R) (f : α → β) (g : α → γ)
+    (e : β → γ) : Function.extend f (r • g) (r • e) = r • Function.extend f g e :=
+  funext fun x => by
+  haveI : Decidable (∃ a : α, f a = x) := Classical.propDecidable _
+  rw [extend_def, Pi.smul_apply, Pi.smul_apply, extend_def]
+  split_ifs <;>
+  rfl
+  -- Porting note: Lean4 is unable to automatically call `Classical.propDecidable`
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/Pi.lean:276]: Should this porting note be on L272?

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
